US08372823B2
Methyl 6-(2-(3-(4-phenoxyphenyl)propanoyl)oxazol-5-yl)pyridine-2-carboxylate (356 mg, 0.831 mmol) was dissolved in THF/H2O (3:2, 75 mL) and LiOH (59 mg, 2.5 mmol) was added. The reaction solution was stirred at room temperature under an atmosphere of Ar for 2 h before the addition of 1 N HCl to adjust the solution to an acidic pH to quench the reaction. The reaction solution was diluted with EtOAc and the organic and aqueous layers were separated. The aqueous layer was extracted with EtOAc (3×). The organic phases were combined and washed with saturated aqueous NaCl, dried over Na2SO4, and concentrated in vacuo. The crude product was purified by flash chromatography (SiO2, 1% AcOH/EtOAc) to provide 6-(2-(3-(4-phenoxyphenyl)propanoyl)oxazol-5-yl)pyridine-2-carboxylic acid as a light yellow solid (314 mg, 91%): 1H NMR (THF-d8, 500 MHz) δ 8.11-8.03 (m, 4H), 7.30-7.25 (m, 4H), 7.03 (t, 1H, J=8.0 Hz), 6.94 (d, 2H, J=8 Hz), 6.91 (d, 2H, J=8.5 Hz), 3.43 (t, 2H, J=7.5 Hz), 3.04 (t, 2H, J=7.5 Hz); 13C NMR (THF-d8, 500 MHz) δ 187.3, 165.7, 158.9, 156.7, 153.6, 150.1, 147.2, 139.7, 137.1, 130.7, 130.6, 128.7, 125.5, 123.8, 123.7, 120.0, 119.4, 41.7, 29.8; HR ESI-TOF m/z 415.1284 (M+H+, C24H18N2O5, requires 415.1288).

reactant | Methyl 6-(2-(3-(4-phenoxyphenyl)propanoyl)oxazol-5-yl)pyridine-2-carboxylate | 0.831 mmol, 356 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)CCC(=O)C=1OC(=CN1)C1=CC=CC(=N1)C(=O)OC | C25H20N2O5
reactant | LiOH | 2.5 mmol, 59 mg | [Li+].[OH-]
reactant | HCl | 1 N | Cl | ClH
solvent | THF H2O | 75 mL | C1CCOC1.O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(2-(3-(4-phenoxyphenyl)propanoyl)oxazol-5-yl)pyridine-2-carboxylic acid | 314 mg, 91% | O(C1=CC=CC=C1)C1=CC=C(C=C1)CCC(=O)C=1OC(=CN1)C1=CC=CC(=N1)C(=O)O | C24H18N2O5
